US05229417
Sodium borohydride (6.7 g) was slowly added to a solution of 3-dimethylaminopropiophenone (15.5 g) in 2-propanol (125 ml) and methanol (25 ml). After two hrs, the reaction mixture was stirred with water and extracted with ethyl acetate-ether. The organic extract was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated to give 15.2 g (97%) of 3-dimethylamino-1-phenyl-1-propanol, as an oil. A solution of 3-dimethylamino-1-phenyl-1-propanol (15 g) in dimethylformamide (75 ml) was slowly added to a suspension of sodium hydride (60% oil-dispersion, washed with hexane, 5.5 g) in dimethylformamide (20 ml). A solution of 4-fluorobenzotrifluoride (18 g) in dimethylformamide (20 ml) was added. After two hrs, the reaction mixture was stirred with ice-water and extracted with ether. The ether extract was dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated to provide 27 g (100%) of N,N-dimethyl-3-[ 4-(trifluoromethyl)phenoxy]benzenepropanamine.

reactant | 3-dimethylamino-1-phenyl-1-propanol | 15 g | CN(CCC(O)C1=CC=CC=C1)C | C11H17NO
reactant | sodium hydride | 5.5 g | [H-].[Na+]
reactant | 4-fluorobenzotrifluoride | 18 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N,N-dimethyl-3-[ 4-(trifluoromethyl)phenoxy]benzenepropanamine | 27 g, 100% | CN(CCCC1=CC(=CC=C1)OC1=CC=C(C=C1)C(F)(F)F)C | C18H20F3NO
